US04376206
Maleic anhydride (50 g) was dissolved in 120 ml of acetone. While this solution was being kept at 15° C., 83 g of 2-chloro-4-isopropenylaniline was added thereto. The resulting reaction mixture was stirred at 15° C. for 2 hours. Then, 0.9 g of cobalt acetate tetrahydrate, 16 g of triethylamine, and 57 g of acetic anhydride were added, with stirring, to the above reaction mixture. Thereafter, the reaction mixture was heated to 60° C., stirred at that temperature for 21/2 hours, and then cooled to room temperature. After the addition of 50 ml of methyl alcohol, the reaction mixture was slowly poured into 2,000 ml of vigorously stirred water. The precipitate so formed was separated by filtration and then washed with water, with an aqueous sodium carbonate solution, and thoroughly with water. Finally, the precipitate was washed with 150 ml of methyl alcohol and then dried at 50° C. under reduced pressure to obtain 109 g of N-(2-chloro-4-isopropenylphenyl)maleimide in an 89% yield. The analytical data were as follows.

reactant | Maleic anhydride | 50 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | 2-chloro-4-isopropenylaniline | 83 g | ClC1=C(N)C=CC(=C1)C(=C)C | C9H10ClN
reactant | triethylamine | 16 g | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 57 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetone | 120 ml | CC(=O)C | C3H6O
catalyst | cobalt acetate tetrahydrate | 0.9 g | O.O.O.O.C(C)(=O)[O-].[Co+2].C(C)(=O)[O-]
solvent | water | O | H2O
solvent | methyl alcohol | 50 ml | CO | CH4O
product | N-(2-chloro-4-isopropenylphenyl)maleimide | 109 g, 89% yield | ClC1=C(C=CC(=C1)C(=C)C)N1C(C=CC1=O)=O | C13H10ClNO2
